US05403852
4,5-Bis(4-chlorophenyl)-2-(5-bromopentyl)oxazole is prepared in the following manner: 39.5 g of 1,2-bis(4-chlorophenyl)-2-(6-bromohexanamido)ethanone in 80 cm3 of toluene containing 40 g of phosphorus oxychloride are stirred for 3 hours at 80° C. After evaporation to dryness under vacuum, 100 cm3 of ice-cold water are added. The mixture is extracted with diethyl ether (3 times 120 cm3) and the ethereal solutions are washed successively with water (3 times 50 cm3) and saturated aqueous sodium bicarbonate solution (twice 100 cm3). The organic phase is dried and concentrated to dryness. The solid residue is dissolved in 400 cm3 of hexane, the solution is treated with animal charcoal and filtered through kieselguhr, the filtrate is cooled to 10° C. and the precipate is drained and dried. 33 g (87%) of 4,5-bis(4-chlorophenyl)-2-(5-bromopentyl)oxazole are obtained in the form of white crystals, melting point 98° C.

reactant | 1,2-bis(4-chlorophenyl)-2-(6-bromohexanamido)ethanone | 39.5 g | ClC1=CC=C(C=C1)C(C(NC(CCCCCBr)=O)C1=CC=C(C=C1)Cl)=O | C20H20BrCl2NO2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 80 cm3, 40 g | C1(=CC=CC=C1)C | C7H8
product | 4,5-bis(4-chlorophenyl)-2-(5-bromopentyl)oxazole | 33 g, 87% | ClC1=CC=C(C=C1)C=1N=C(OC1C1=CC=C(C=C1)Cl)CCCCCBr | C20H18BrCl2NO
